US04970327
2-Bromo-6-methylenandrost-4-ene-3,17-dione[VI,R1 =R2 =R3 =R4 =H]
A 250 ml 3-necked round bottomed flask fitted with a condenser, a thermometer and a magnetic stirrer is charged with 2.68 g of 2,6-dibromo-6-bromomethylandrost-4-ene-3,17-dione, 100 ml of acetone and 5.99 g of sodium iodide. The resulting suspension in refluxed for 15 min, cooled to room temperature, filtered and evaporated in vacuo. The residue is taken up with 50 ml of chloroform,washed twice with a saturated sodium thiosulfate aqueous solution, twice with water and dried over anhydrous calcium chloride. Evaporation of the solvent in vacuo yields 1.86 g of the crude title compound which is directly used for the next step.

reactant | 2,6-dibromo-6-bromomethylandrost-4-ene-3,17-dione | 2.68 g | BrC1C(C=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C1)C)=O)(CBr)Br)=O | C20H25Br3O2
reactant | sodium iodide | 5.99 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-Bromo-6-methylenandrost-4-ene-3,17-dione | 1.86 g | BrC1C(C=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C1)C)=O)=C)=O | C20H25BrO2
